US04148919
STEP B: 5ξ-hydroxy-7-benzylamino-6,7,8,9-tetrahydro [5H] benzocycloheptene
A mixture of 1.5 g of lithium aluminum hydride in 150 ml of anhydrous tetrahydrofuran was cooled to 0° C. and a solution of 8 g of 7-benzylamino-6,7,8,9-tetrahydro [5H] benzocyclohepten-5-one in 150 ml of tetrahydrofuran was added thereto over 30 minutes at 0° to 5° C. The mixture was stirred for 2 hours at 0° C. and was then poured into an aqueous solution saturated with ammonium chloride. The mixture was filtered and the filtrate was extracted with ethyl acetate. The extract was washed with an aqueous sodium chloride solution, was dried and filtered. The filtrate was evaporated to dryness under reduced pressure at 40° C. to 8.4 g of raw product which was a mixture of the A and B isomers of 5ξ-hydroxy-7-benzylamino-6,7,8,9-tetrahydro [5H] benzocycloheptene which was used as is for the next step.

reactant | lithium aluminum hydride | 1.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 7-benzylamino-6,7,8,9-tetrahydro [5H] benzocyclohepten-5-one | 8 g | C(C1=CC=CC=C1)NC1CC(C2=C(CC1)C=CC=C2)=O | C18H19NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 5ξ-hydroxy-7-benzylamino-6,7,8,9-tetrahydro [5H] benzocycloheptene | OC1CC(CCC2=C1C=CC=C2)NCC2=CC=CC=C2 | C18H21NO
